US05124337
Combine 3.9 g of oxalyl chloride, 2.0 g of 3,4-dimethoxyphenylacetic acid and 50 mL of benzene and stir the mixture at 60° C. for 2.5 h. Remove the excess oxalyl chloride by distillation and concentrate the solution to a volume of 20 mL. Cool the solution to room temperature and add slowly to a suspension of anhydrous aluminium chloride (1.6 g) in 300 mL of benzene over 12 h. Stir the reaction mixture for 6 h., pour into a mixture of ice and conc. hydrochloric acid, then extract with ethyl acetate. Dry the organic extract over Na2SO4, filter and concentrate the filtrate to a residue. Chromatograph the residue on silica gel using 3:7 ethyl acetate/hexane to give 847 mg of α-(3,4-dimethoxyphenyl)-acetophenone. 1H NMR (CDCl3): δ8.1-7.98 (2H, m); 7.62-7.4 (3H, m); 6.76-6.9 (3H, m); 4.24 (2H, s); 3.85 (6H, s).

reactant | oxalyl chloride | 3.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,4-dimethoxyphenylacetic acid | 2.0 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | α-(3,4-dimethoxyphenyl)-acetophenone | 847 mg | COC=1C=C(C=CC1OC)CC(=O)C1=CC=CC=C1 | C16H16O3
